US05068371
Bis(cyclopentadienyl)bis[2,6-difluoro-3-((1H-pyrr-1-yl)methyl)phenyl]titanium
Analogously to Example 19,2.5 g (0.010 mol)of bis(cyclopentadienyl)titanium dichloride and 4.25 g (0.022 mol) of 1-[(2,4-difluorophenyl)methyl]-1H-pyrrole are reacted with 0.022 mol of lithium diisopropylamide solution. 3.1 g of orange crystals melting point 192°-194° C. are obtained.

reactant | bis(cyclopentadienyl)titanium dichloride | 0.010 mol, 2.5 g | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2]C1C=CC=C1
reactant | 1-[(2,4-difluorophenyl)methyl]-1H-pyrrole | 0.022 mol, 4.25 g | FC1=C(C=CC(=C1)F)CN1C=CC=C1 | C11H9F2N
reactant | lithium diisopropylamide | 0.022 mol | C(C)(C)[N-]C(C)C.[Li+]
product | Bis(cyclopentadienyl)bis[2,6-difluoro-3-((1H-pyrr-1-yl)methyl)phenyl]titanium | 3.1 g | C1(C=CC=C1)[Ti](C1=C(C(=CC=C1F)CN1C=CC=C1)F)(C1=C(C(=CC=C1F)CN1C=CC=C1)F)C1C=CC=C1 | InChI=1S/2C11H8F2N.2C5H5.Ti/c2*12-10-4-3-9(11(13)7-10)8-14-5-1-2-6-14;2*1-2-4-5-3-1;/h2*1-6H,8H2;2*1-5H;
